US05968967
1-(4-Amidinophenyl)-4-([4-(carboxymethyloxy)-1-piperidinyl]carbonyl}-2-methyl-3-[4-(2-pyridyl)phenyl]-2H-pyrazol-5-one dihydrochloride (Compound No. 131)
5 ml of concentrated hydrochloric acid was added to a mixture of 100 ml of water and 5.25 g of 1-(4-amidinophenyl)-4-{[4-(carboxymethyloxy)-1-piperidinyl]carbonyl}-2-methyl-3-[4-(2-pyridyl)phenyl]-2H-pyrazol-5-one to make a solution. The solution was stirred with 1200 ml of acetonitrile for 15 hours, and the precipitated crystals were collected by filtration. The crystals were dried at 60° C. under reduced pressure to give 5.55 g of the title compound as pale yellow crystals.

reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | water | 100 ml | O | H2O
reactant | 1-(4-amidinophenyl)-4-{[4-(carboxymethyloxy)-1-piperidinyl]carbonyl}-2-methyl-3-[4-(2-pyridyl)phenyl]-2H-pyrazol-5-one | 5.25 g | C(N)(=N)C1=CC=C(C=C1)N1N(C(=C(C1=O)C(=O)N1CCC(CC1)OCC(=O)O)C1=CC=C(C=C1)C1=NC=CC=C1)C | C30H30N6O5
solvent | acetonitrile | 1200 ml | C(C)#N | C2H3N
product | 1-(4-Amidinophenyl)-4-([4-(carboxymethyloxy)-1-piperidinyl]carbonyl}-2-methyl-3-[4-(2-pyridyl)phenyl]-2H-pyrazol-5-one dihydrochloride | 5.55 g | Cl.Cl.C(N)(=N)C1=CC=C(C=C1)N1N(C(=C(C1=O)C(=O)N1CCC(CC1)OCC(=O)O)C1=CC=C(C=C1)C1=NC=CC=C1)C | InChI=1S/C30H30N6O5.2ClH/c1-34-27(20-7-5-19(6-8-20)24-4-2-3-15-33-24)26(29(39)35-16-13-23(14-17-35)41-18-25(37)38)30(40)36(34)22-11-9-21(10-12-22)28(31)32;;/h2-12,15,23H,13-14,16-18H2,1H3,(H3,31,32)(H,37,38);2*1H
